US07348324B2
N-[3-(4-benzyl-1-piperidinyl)propyl]aniline 2 hydrochloride
To a solution of 4-benzylpiperidine (52.58 g, 300 mmol), DBU (0.449 ml, 3.0 mmol) in THF (600 ml) was added dropwise a solution of acrolein (90%, 18.69 g, 300 mmol) in THF (60 ml) over a period of 10 minutes at −20° C. under stirring. While a temperature of the solution was elevated from −20° C. to −10° C., the solution was stirred 1 hour. To the solution were added at −10° C. aniline (27.94 g, 300 mmol) and sodium triacetoxyborohydride (127.16 g, 600 mmol), successively, and the mixture was stirred for 19 hours while the temperature of the mixture was elevated to room temperature. To the mixture was added an aqueous solution of 2N-sodium hydroxide (900 ml) under ice cooling, and the mixture was stirred for 30 minutes and extracted with diethyl ether (400 ml, 200 ml×2). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was dissolved in 2-propanol (400 ml), and to the solution was added 4N-hydrogen chloride in ethyl acetate (200 ml) with stirring. The resulting precipitates were collected by filtration. The precipitates were washed with 2-propanol (100 ml×3), and dried under reduced pressure to give the titled compound (75.66 g, 198 mmol, Yield 66%) as white crystals. mp 217° C. (dec.)

reactant | 4-benzylpiperidine | 300 mmol, 52.58 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | acrolein | 300 mmol, 18.69 g | C(=O)C=C | C3H4O
reactant | aniline | 300 mmol, 27.94 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium triacetoxyborohydride | 600 mmol, 127.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 900 ml | [OH-].[Na+]
solvent | THF | 600 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | DBU | 3.0 mmol, 0.449 ml | C1CCC2=NCCCN2CC1 | C9H16N2
product | N-[3-(4-benzyl-1-piperidinyl)propyl]aniline | 198 mmol, 75.66 g, Yield 66% | C(C1=CC=CC=C1)C1CCN(CC1)CCCNC1=CC=CC=C1 | C21H28N2
